// L2_comparator: Clocked Comparator
simulator lang=spectre
global 0

ahdl_include "L2_comparator.va"

// Power supplies
Vvdd (vdd 0) vsource dc=0.9 type=dc
Vgnd (gnd 0) vsource dc=0.0 type=dc

// Clock: 1GHz (1ns period), delayed 0.5ns
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=1n delay=0.5n \
        rise=20p fall=20p

// Differential input: VINP constant, VINN steps at 5ns
Vvinp (vinp 0) vsource dc=0.5 type=dc
Vvinn (vinn 0) vsource type=pwl wave=[0 0.3 4.9e-9 0.3 5e-9 0.7 10e-9 0.7]

// DUT (port order: DCMPN DCMPP GND VDD CLK VINN VINP)
XDUT (out_n out_p gnd vdd clk vinn vinp) L2_comparator

tran tran stop=10n maxstep=5p
save clk vinp vinn out_p out_n
